US04851387
5.0 ml of 1-bromo-2-propanol was dissolved in 40 ml of dry dichloromethane, and 7.6 ml of 2,3-dihydropyran and 237 mg of dry p-toluenesulfonic acid were added thereto. The mixture was reacted at room temperature for 5 hours and then diluted by an addition of 250 ml of chloroform. The mixture was washed sequentially with a 4% sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution. Then, the chloroform layer was dried over anhydrous magnesium sulfate. After filtering the inorganic salt off, the filtrate was concentrated under reduced pressure to obtain a brown syrup. This syrup was purified by silica gel flash column chromatography (130 g of Wacogel C-300 and eluted with hexane/ethyl acetate (15/1). The eluate containing the desired product was collected and concentrated under reduced pressure to obtain 11.3 g of 1-bromo-2-(tetrahydropyran-2-yl)oxypropane as a colorless transparent volatile syrup.

reactant | 1-bromo-2-propanol | 5.0 ml | BrCC(C)O | C3H7BrO
reactant | 2,3-dihydropyran | 7.6 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 237 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-bromo-2-(tetrahydropyran-2-yl)oxypropane | 11.3 g | BrCC(C)OC1OCCCC1 | C8H15BrO2
